US07960552B2
Concentrated sulfuric acid (0.75 L) was added during 15 min to a stirred suspension of 6-bromo-2-(tribromomethyl)quinoline (350 g, 0.76 mol) in water (1.75 L). The resulting suspension was heated at 150° C. (bath temperature) for 5 hr. The mixture was cooled and the precipitate was collected by filtration, washed with water and dried to give 6-bromo-2-quinolinecarboxylic acid as a solid (127.6 g). The filtrate was diluted with water (3 L) and a second crop of the product was obtained (55.7 g, combined yield 183.3 g, 96%). 1H NMR (400 MHz, DMSO-d6): 8.50 (d, J=9 Hz, 1H), 8.38 (d, J=2 Hz, 1H), 8.13 (d, J=9 Hz, 1H), 8.06 (d, J=9 Hz, 1H), 7.96 (m, 1H). ES-LCMS m/z 253 (M+H)+.

reactant | sulfuric acid | 0.75 L | S(O)(O)(=O)=O | H2O4S
reactant | 6-bromo-2-(tribromomethyl)quinoline | 0.76 mol, 350 g | BrC=1C=C2C=CC(=NC2=CC1)C(Br)(Br)Br | C10H5Br4N
reactant | water | 1.75 L | O | H2O
product | 6-bromo-2-quinolinecarboxylic acid | 127.6 g | BrC=1C=C2C=CC(=NC2=CC1)C(=O)O | C10H6BrNO2
